US04474964
To 70 ml of ethyl alcohol was added 3.23 g of 1-(2-piperidinoethyl)-3-phthalimidoindazole. To the mixture was added 2.5 g of 85% hydrazine under cooling with ice and the mixture was stirred for 3 hours under cooling with ice. The reaction mixture was filtered and the filtrate was condensed under reduced pressure. The condensed residue was added with 20 ml of water and extracted with chloroform. The chloroform layer was extracted with 2N-hydrochloric acid and the pH of the layer was adjusted to 10 with potassium carbonate. The layer was extracted with chloroform. The chloroform layer was dried with anhydrous sodium sulfate and chloroform was removed under reduced pressure to give 1.28 g of 1-(2-piperidinoethyl)-3-aminoindazole in a yield of 66%.

reactant | ethyl alcohol | 70 ml | C(C)O | C2H6O
reactant | 1-(2-piperidinoethyl)-3-phthalimidoindazole | 3.23 g | N1(CCCCC1)CCN1N=C(C2=CC=CC=C12)N1C(C=2C(C1=O)=CC=CC2)=O | C22H22N4O2
reactant | hydrazine | 2.5 g | NN | H4N2
solvent | water | 20 ml | O | H2O
product | 1-(2-piperidinoethyl)-3-aminoindazole | 1.28 g, yield of 66% | N1(CCCCC1)CCN1N=C(C2=CC=CC=C12)N | C14H20N4
